US07592373B2
5.1.b. (E)-3-(4-pyrrolidin-1-ylmethylphenyl)acrylic acid
A reaction mixture of 0.3 g (1.15 mmol) of ethyl (E)-3-(4-pyrrolidin-1-ylmethylphenyl)acrylate and 0.4 g (9.53 mmol) of lithium hydroxide monohydrate in 20 mL of a 1:1 mixture of methanol, THF, and water is stirred for 48 hours at ambient temperature. Then the reaction mixture is evaporated down, the residue is diluted with water and acidified with hydrochloric acid. The mixture is evaporated down, combined with methanol and dichloromethane, filtered, and the filtrate is evaporated to dryness. Yield: 0.27 g, C14H17NO2 (M=231.29); calc.: molecular ion peak (M+H)+: 232; found: molecular ion peak (M+H)+: 232; Rf value: starting spot (silica gel, dichloromethane/methanol/ammonia (90:10:1)).

reactant | ethyl (E)-3-(4-pyrrolidin-1-ylmethylphenyl)acrylate | 1.15 mmol, 0.3 g | N1(CCCC1)CC1=CC=C(C=C1)/C=C/C(=O)OCC | C16H21NO2
reactant | lithium hydroxide monohydrate | 9.53 mmol, 0.4 g | O.[OH-].[Li+]
reactant | methanol | CO | CH4O
reactant | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (E)-3-(4-pyrrolidin-1-ylmethylphenyl)acrylic acid | N1(CCCC1)CC1=CC=C(C=C1)/C=C/C(=O)O | C14H17NO2
